US04148895
2-[4-(2-(1,3-dioxolan-2-yl)-ethyl)-1-piperazinyl]-1-phenyl indole 3-carboxylic acid (4-methyl)-piperazide
A stirred mixture of 8 g (0.02 mol) of 1-phenyl-2-(1-piperazinyl)-indole 3-carboxylic acid (4-methyl)-piperazide, 9.45 g (0.07 mol) of 2-(2-chloroethyl)-1,3-dioxolane and 9.7 ml of triethylamine in 60 ml of toluene was maintained at the boil for 40 hours. After cooling, the mixture was diluted with 200 ml of chloroform, washed three times with water, and the solvent was eliminated in vacuo. The resinous residue of the organic phase was chromatographed using silica gel 60 (0.06-0.2 mm, deactivated by 10% of water, column size: 3 × 100 cm) with chloroform containing 10% methanol. The base was eluted as a resin. The yield amounted to 6.6 g (66% of the theoretical yield). The dihydrochloride melted at 215°-217° C.

reactant | 1-phenyl-2-(1-piperazinyl)-indole 3-carboxylic acid (4-methyl)-piperazide | 0.02 mol, 8 g | CN1CCN(CC1)C(=O)C1=C(N(C2=CC=CC=C12)C1=CC=CC=C1)N1CCNCC1 | C24H29N5O
reactant | 2-(2-chloroethyl)-1,3-dioxolane | 0.07 mol, 9.45 g | ClCCC1OCCO1 | C5H9ClO2
reactant | triethylamine | 9.7 ml | C(C)N(CC)CC | C6H15N
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-[4-(2-(1,3-dioxolan-2-yl)-ethyl)-1-piperazinyl]-1-phenyl indole 3-carboxylic acid (4-methyl)-piperazide | CN1CCN(CC1)C(=O)C1=C(N(C2=CC=CC=C12)C1=CC=CC=C1)N1CCN(CC1)CCC1OCCO1 | C29H37N5O3
